Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Suicidal ideation with plan to jump in front of a commuter train
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Briefly, Ms. ___ is a ___ year old woman with a medical history 
significant for depression, anxiety, current cannabis use 
disorder and past alcohol use disorder who was driven to the 
emergency room by her girlfriend from her therapist's office 
after she endorsed worsening suicidal ideation with plan to jump 
in front of a commuter train. "At her appointment with her 
therapist this afternoon, Ms. ___ told her therapist that she 
was thinking of taking her own life and described a plan of 
jumping in front of a commuter rail train or jumping from a tall 
building. She also said that she had thought about writing a 
note and disposing of her possessions. This prompted a 
conference call between her therapist and her psychiatrist where 
she ___ her suicidal ideation and plan. At the end of 
this call, her therapist strongly suggested that she go to the 
emergency room or she would contact the police to take her to 
___. 
.
"Ms. ___ reported that she had had thoughts of taking her own 
life and a passive desire to be dead for several years but had 
begun to develop plans for taking her own life approximately ___ 
year ago. When asked in greater detail about her plans for 
___, Ms. ___ stated that she had not chosen a specific 
building or commuter rail station at which to take her own life 
and that she had not visited any location that would be part of 
her plan. She did say that two days ago she became concerned 
that she might act on this plan, but after going to sleep and 
then to work she felt better. She expressed a preference not to 
take her own life by cutting or taking pills because of the pain 
involved in that process. She denied any access to or ability to 
obtain weapons. The patient does report that she skipped about 4 
days of her medications last week but has since resumed them."
.
"The patient has never previously attempted suicide. She had 
previously engaged in ___ by cutting herself in middle 
school, though the frequency of this behavior declined 
significantly in high school." 
.
"On psychiatric review of systems, the patient endorses systems 
consistent with depression, including low mood and insomnia. She 
denies any change in appetite or weight. The patient endorses 
some symptoms potentially consistent with hypomania, 
specifically not needing sleep and having a lot of energy, but 
these periods are less than one day in duration. The patient 
endorses symptoms of anxiety with panic attacks with a peak 
frequency of ___ with symptoms including SOB, CP, 
palpitations, nausea The patient also describes significant 
rumination that interferes with sleep. One example is a fantasy 
where she marries her girlfriend, has children, and then her 
girlfriend cheats on her and then she has to tell her children. 
The patient denies symptoms consistent with psychosis. She 
denies auditory hallucinations, visual hallucinations, or 
significant paranoia. She endorses SI as above and denies HI." 
.
ED Course/Medication admins: None 
.
Medical ROS: Endorses fatigue, abdominal pain, diarrhea, 
increased urinary frequency, and sweating that wakes her up at 
night. Denies fevers, headaches, numbness, weakness, changes in 
vision or hearing, cough, SOB, CP, palpitations, 
nausea/vomiting, constipation, melena, hematochezia, dysuria, 
hematuria, rash, skin changes, joint pain, or muscle pain.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY: 
Per therapist, patient has diagnoses of MDD, GAD, and possible 
PTSD. Hospitalizations: Denies Current treaters and treatment: 
Therapist ___. Has been seeing patient 
for six months. Patient saw another therapist for prior six 
months. Medication and ECT trials: Currently on Wellbutrin and 
sertraline. ___: Cutting in middle school/high school 
Harm to others: Denies Access to weapons: Denies Trauma: Sexual 
assault perpetrated by ___ year old male at age ___ when under the 
influence of alcohol. Describes depersonalizing emotional trauma 
from her parents until the age of ___ that was strongly linked 
with her mother's alcohol use disorder. 
.
Past medical history: Denies
. 
Current Medications: Wellbutrin XL 150 mg, Sertraline 100 mg 
. 
Allergies: NKDA 
 
Social History:
Born/Raised: ___, parents divorced and she spent first half 
of childhood with her mother and second half with her father.
Relationship status: girlfriend ___ ___ year)
Family/Support: 3 ___ with distant relationship, 
strained relationship with mother but she speaks with her daily, 
financially supported by her father but feels the relationship 
is "cold."
Housing: Lives in ___ with her girlfriend and two 
roommates
Education: Sophomore at ___, majoring in ___, says her 
grades are good but she's been feeling less motivated, missing 
more class, and missing deadlines for assignments.
.
Substance use history: EtOH: From age ___ had repeated 
episodes of drinking 4+ drink until drunk or black out. MJ: Uses 
___ for past year Uses zolpidem and alprazolam without 
prescription for sleep and anxiety approximately ___ for 
the past year Denies tobacco use Denies other substance use
.
Forensic history: Arrests: Denies Convictions and jail terms: 
Denies Current status (pending charges, probation, parole): 
Denies
Employment: ___
Spiritual: Denies
 
Family History:
Family psychiatric history: Aunt with ___, Mother with 
EtOH use disorder
 
Physical Exam:
Temperature 99.2 HR 71 BP 97/60 RR 16 O2 Sat 100% on RA
.
General: ___ year old woman with red hair and glasses, appears 
younger than stated age, ___, wearing a hospital gown 
and sitting upright on a hospital bed.
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx 
clear.
 Neck: Supple.
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions. 
.
Neurological:
 pupils symmetry and responsiveness to light and accommodation: 
PERRLA
 EOM:  full
 facial sensation to light touch in all 3 divisions: equal
 facial symmetry on eye closure and smile:  symmetric
 hearing bilaterally to voice: normal
 phonation: normal
 head turning and shoulder shrug:  intact
 tongue: midline
 Motor: muscle bulk and tone normal, strength is full 
bilaterally
 Reflexes: 1+ patellar reflexes
 Coordination: intact
 Gait: normal posture, normal gait
.
Cognition: 
 Wakefulness/alertness: Awake and alert. Responds to interviewer 
when entering room.
 *Attention (digit span, MOYB): focuses on interviewer during 
questioning, correct MOYB
 *Orientation: Oriented to person, place, situation, date, 
month, and year
 Executive function ___ go, Luria, trails, FAS): not assessed
 *Memory: ___ registration, ___ recall
 *Fund of knowledge:  Intact to past 3 presidents
 Calculations:  $1.75 = "7 quarters"
 Abstraction: Don't cry over spilled milk = "don't get upset 
over the little things"
 Visuospatial: not formally assessed
 *Speech: regular rate, rhythm, tone, and prosody
 *Language: Fluent ___ with no neologisms
.
Mental Status:
 *Appearance:  ___ year old woman with red hair and glasses, 
appears younger than stated age, ___, wearing a 
hospital gown and sitting upright on a hospital bed.
 Behavior: No psychomotor agitation or repetitive movements. 
Polite, engaged in questioning.
 *Mood and Affect: Mood is "better." Affect is full range, 
including smiling and laughing. Later after being sectioned 
patient appears quite tearful.
 *Thought process / *associations:  linear and organized
 *Thought Content: SI as above. Denies HI. Denies 
AH/VH/paranoia.
Judgment: poor, patient has thoughts of jumping in front of a 
train. Insight: limited. Patient would prefer not to be 
hospitalized.
.
MENTAL STATUS ON DISCHARGE
 -Appearance: female appearing stated age, well groomed, in no 
apparent distress
 -Behavior: sitting upright in chair, appropriate eye contact, 
no psychomotor agitation or retardation
 -Attitude: Cooperative, engaged, friendly
 -Mood: "better"
 -Affect: ___, full range, appropriate to situation
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, ___, no loose 
associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current 
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
 -Insight: fair 
 -Judgment: good 
 
Pertinent Results:
___ 02:15PM BLOOD ___ 
___
___ 02:15PM URINE ___
___ 02:15PM URINE ___ 
___
 
Brief Hospital Course:
LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
PSYCHIATRIC:
Ms. ___ is a ___ ___ student with a history of 
depression, generalized anxiety disorder, PTSD, current cannabis 
use disorder with no prior psychiatric hospitalizations or 
suicide attempts who presented with worsening suicidal ideation 
with plan to jump in front of a train. Ms. ___ presented to the 
ED from her outpatient therapists office after increasing 
suicidal thoughts and poor mood. She was placed on a ___ 
in the ED and was admitted to the inpatient unit on a 
conditional voluntary ___. On arrival to the unit Ms. ___ 
reported anhedonia, amotivation, anergia, low energy, 
difficultly falling asleep and hypersomnia, increasing 
rumination, social anxiety with avoidance, and suicidal 
ideation. This is despite a therapeutic relationship with 
outpatient psychiatrist and therapist.
.
Patient's presentation appeared most consistent with major 
depressive disorder and ___ anxiety disorder, With 
moderate or severe use disorder. Ms. ___ reported amotivation, 
anergia, poor mood, anhedonia and suicidal thoughts which could 
be a manifestation of heavy marijuana use though on history and 
collateral, it appeared that Ms. ___ reports a similar decline 
in functioning and worsening of mood symptoms at this time last 
year regardless of substance use. This suggested a potential 
recurrence of a primary mood disorder. Ms. ___ acknowledged a 
history of trauma. At this time the specificity and timing 
(___?) is unclear though this could be associated with 
cyclical decompensation in mood. In regard to Ms. ___ anxiety 
symptoms she acknowledged difficulty falling asleep due to 
ruminations and racing thoughts. This occurred despite and 
perhaps secondary to heavy marijuana use. She reported self 
treating her escalating anxiety symptoms during the day with 
marijuana and occasionally using ___ benzodiazepines 
for inability to fall asleep. 
.
We continued outpatient prescribers sertraline and outpatient 
treaters recently started bupropion. We started clonidine to 
treat patient's rumination and difficulty falling asleep and 
monitored for lightheadedness, dizziness, and low blood 
pressure. We engaged in daily evaluation and motivational 
interviewing by psychiatry, social work and recommended 
engagement in the occupational therapy led groups on the unit. 
We arranged/documented ___ with psychiatrist and primary 
care provider. We established follow up with an outpatient 
partial program on discharge while Ms. ___ therapist is away 
for vacation in ___. We discussed with Ms. ___ regarding 
the association between her anxiety and heavy marijuana use 
including exacerbation of her underlying anxiety disorder as 
well interfering with the effectiveness of her psychiatric 
medications. We encouraged the patient to continue to abstain 
from use after discharge.   
.
Ms. ___ reported benefit from engagement in coping skills and 
project groups. She reported and overall reduction in anxiety 
and improvement in mood. This she attributed to the clonidine. 
Mental status on discharge was notable for euthymic, full, 
reactive, affect, linear thought process, absence of suicidal 
ideation and fair insight and good judgment. She was future 
oriented and reported good social support, outpatient psychiatry 
___ and was able to self identify safety resources if she 
experiences a recurrence of suicidal ideation or increasing 
hopelessness.    
.
Future interventions include up titration of clonidine and 
sertraline if required for recurrence of insomnia and anxiety 
symptoms respectively. We encouraged continued utilization of 
weekly/biweekly therapy appointments with eventual skilled focus 
on trauma. 
.
SUBSTANCE USE DISORDERS:
#Cannabis use disorder, moderate to severe - Reported smoking 1 
ounce a month of cannabis for the past one year. Smoked daily 
before bed and in the morning when she had nothing planned for 
the day. She denied escalating use though reports associated 
anxiety with use. Has purchased benzodiazepines for assistance 
with insomnia and inability to fall asleep at night. As above 
(we discussed with Ms. ___ regarding the association between 
her anxiety and heavy marijuana use including exacerbation of 
her underlying anxiety disorder as well interfering with 
effectiveness of her psychiatric medications. We encouraged the 
patient to continue to abstain from use after discharge).
.
MEDICAL
#No medical issues were identified throughout hospitalization. 
.
PSYCHOSOCIAL
#GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Ms. ___ 
often attended these groups that focused on teaching patients 
various coping skills. Ms. ___ was pleasant, polite, 
appropriate with fellow patients and staff while on the unit. 
.
#COLLATERAL CONTACTS & FAMILY INVOLVEMENT
 #INTERVENTIONS
 - Medications: sertraline, bupropion, clonidine. 
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: outpatient partial hospitalization 
program, psychiatry, therapy, PCP
 - ___ (e.g. encouraged DBT skills, ect): 
mindfulness, relaxation, coping skills. 
 -Guardianships: none 
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon suicidal ideation. 
Her static factors noted at that time include history of abuse 
chronic mental illness, history of substance abuse, Caucasian 
race, age, LGBT identity. The modifiable risk factors were also 
addressed at that time include suicidal ideation with plan, 
hopelessness, social withdrawal, limited coping skills, 
insomnia, active substance abuse/intoxication. We adjusted 
medications to improve insomnia provided substance use and 
treatment counseling, coordinated and collaborated with 
outpatient providers for care and aftercare, and provided coping 
and behavioral skills. Finally, the patient is being discharged 
with many protective risk factors, ___ nature, 
___ viewpoint,  reality testing ability, good coping 
skills, good ___ skills, positive therapeutic 
relationship with outpatient providers, lack of suicidal 
ideation, and strong social supports.  Overall, based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of ___ nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 150 mg PO DAILY 
2. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
1.  CloNIDine 0.1 mg PO QHS  
2.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
3.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder
Cannabis Induced Anxiety Disorder, Moderate Use Disorder 
h/o Post Traumatic Stress Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___